US07645771B2
To a solution of methyl 3-amino-2-chlorobenzoate (517 mg, 2.79 mmol) and pyridine (0.25 mL, 3.06 mmol) in 8 mL CH2Cl2 was added methanesulfonylchloride (0.24 mL, 3.06 mmol). After washing with 1M HCl, methyl 2-chloro-3-[(methylsulfonyl)amino]benzoate was isolated as a solid in quantitative yield. 1H NMR (400 MHz, CDCl3), δ 7.77 (dd, 1H, J=8.2, 1.6 Hz), 7.61 (dd, 1H, J=7.9, 1.6 Hz), 7.33 (t, 1H, J=7.9 Hz), 7.16 (s, 1H), 3.91 (s, 3H), 2.99 (5, 3H); ESI-MS 262 (M−H). Methyl 2-chloro-3-[(methylsulfonyl)amino]benzoate was hydrolyzed using aqueous NaOH to provide 2-chloro-3-[(methylsulfonyl)amino]benzoic acid as a solid, which was used without further purification. ESI-MS 248 (M−H).

reactant | Methyl 2-chloro-3-[(methylsulfonyl)amino]benzoate | ClC1=C(C(=O)OC)C=CC=C1NS(=O)(=O)C | C9H10ClNO4S
reactant | NaOH | [OH-].[Na+]
product | 2-chloro-3-[(methylsulfonyl)amino]benzoic acid | ClC1=C(C(=O)O)C=CC=C1NS(=O)(=O)C | C8H8ClNO4S
